US05219871
Preparation of 5-(N-benzyl-N-methylamino)-2,2-diphenylpentanamide
4-(N-Benzyl-N-methylamino)-1-cyano-1,1-diphenylbutane (2 g-see Preparation 2) was dissolved in 90% sulphuric acid (11 ml) and the solution heated at 100° for 3 hours. The solution was allowed to cool to room temperature then poured slowly into water (100 ml). The mixture was made basic (pH 10) by the addition of 10% aqueous sodium carbonate and extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to leave the title compound as a colourless foam, yield 1.9 g.

reactant | 4-(N-Benzyl-N-methylamino)-1-cyano-1,1-diphenylbutane | 2 g | C(C1=CC=CC=C1)N(C)CCCC(C1=CC=CC=C1)(C1=CC=CC=C1)C#N | C25H26N2
reactant | water | 100 ml | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulphuric acid | 11 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(N-benzyl-N-methylamino)-2,2-diphenylpentanamide | C(C1=CC=CC=C1)N(C)CCCC(C(=O)N)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H28N2O
